US04165323
3-(3-Benzyloxyphenyl)butyl Tosylate
Tosyl chloride (9.8 g., 51 mM) is added to a solution of 3-(3-benzyloxyphenyl)-1-butanol (12.8 g., 50 mM) in pyridine (90 ml.) at -45° C. The reaction mixture is held at -35° C. for 18 hours and is then diluted with cold 2 N hydrochloric acid (1500 ml.) and extracted with ether (5×250 ml.). The combined extracts are washed with saturated sodium chloride solution (4×250 ml.) and then dried (Na2SO4). Concentration of the dried extract affords the product as an oil. It is crystallized by treatment with ether-hexane.

reactant | Tosyl chloride | 51 mM, 9.8 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 3-(3-benzyloxyphenyl)-1-butanol | 50 mM, 12.8 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(CCO)C | C17H20O2
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 2 N, 1500 ml | Cl | ClH
product | 3-(3-Benzyloxyphenyl)butyl Tosylate | S(=O)(=O)(OCCC(C)C1=CC(=CC=C1)OCC1=CC=CC=C1)C1=CC=C(C)C=C1 | C24H26O4S
